US04772755
2-(2-bromoethyl)-2-methyl-1,3-dioxolane
To a cold HBr saturated solution of ethylene glycol (210 mL) was added dropwise 118 mL of methyl vinyl ketone. The solution was allowed to warm to RT and the reaction mixture was extracted four times with pentane. The pentane layers were combined, washed with 5% sodium bicarbonate solution, dried over anhydrous magnesium sulfate and evaporated on a rotary evaporator to yield a yellow oil which was vacuum distilled to 67 g of a clear oil, bp 55°-60° C., which was the title compound.

reactant | HBr | Br | BrH
reactant | methyl vinyl ketone | 118 mL | C(=C)C(=O)C | C4H6O
reactant | ethylene glycol | 210 mL | C(CO)O | C2H6O2
product | 2-(2-bromoethyl)-2-methyl-1,3-dioxolane | BrCCC1(OCCO1)C | C6H11BrO2
